US04267345
dl 2-[α-(trifluoromethyl) benzylamino] oxazoline
7.6 g of N-(α-phenyl trifluoroethyl) N'-(β-Chloroethyl) Urea are suspended in 60 ml water, then 4.3 ml triethylamine are added and the whole mixture is heated to reflux under stirring for 30 mn. The reaction mixture is let to revert to about 20°, the precipitate is separated which is dried, washed with water until the washings are neutral and dried under vacuum-6.3 g 2-[α-trifluoromethyl) benzylamino] oxazoline are obtained i.e. a yield of 95%. For analytical purpose the compound is recrystallized from isopropanol with a yield of 73%. The analytical sample melts at 162°-168° (sublim).

reactant | N-(α-phenyl trifluoroethyl) N'-(β-Chloroethyl) Urea | 7.6 g | C1(=CC=CC=C1)C(C(F)(F)F)NC(=O)NCCCl | C11H12ClF3N2O
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
solvent | water | 60 ml | O | H2O
product | 2-[α-(trifluoromethyl) benzylamino] oxazoline | yield of 95% | FC(C(C1=CC=CC=C1)NC=1OCCN1)(F)F | C11H11F3N2O
